US08580794B2
Methyl 1,4-dioxaspiro[4.5]decane-7-carboxylate
To a solution of trimethylsilyltrifluoromethanesulfonate (0.034 mL) in dry dichloromethane (5 mL) was added 1,2-bis(trimethylsiloxy)ethane (4.55 mL) followed by methyl 3-oxocyclohexanecarboxylate (2.9 g). The reaction mixture was stirred for 3 hours at −78° C. The reaction mixture was quenched with dry pyridine (0.5 mL), poured into saturated aqueous NaHCO3, and extracted with ether. The ether layer was dried over Na2CO3/Na2SO4. The reaction mixture was concentrated and purified by flash chromatography on silica with 5 to 30% ethyl acetate in hexanes to provide the title compound.

reactant | trimethylsilyltrifluoromethanesulfonate | 0.034 mL | C[Si](C)(C)OS(=O)(=O)C(F)(F)F | C4H9F3O3SSi
reactant | 1,2-bis(trimethylsiloxy)ethane | 4.55 mL | C[Si](OCCO[Si](C)(C)C)(C)C | C8H22O2Si2
reactant | methyl 3-oxocyclohexanecarboxylate | 2.9 g | O=C1CC(CCC1)C(=O)OC | C8H12O3
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | Methyl 1,4-dioxaspiro[4.5]decane-7-carboxylate | O1CCOC12CC(CCC2)C(=O)OC | C10H16O4
